US08071807B2
Step 7: [3-(2-Bromomethyl-4-nitro-phenoxy)-5-chloro-phenyl]-acetic acid methyl ester
To a solution of [3-chloro-5-(2-hydroxymethyl-4-nitro-phenoxy)-phenyl]-acetic acid methyl ester (2.4 g, 6.8 mmol) in DME (20 mL) was added phosphorus tribromide (0.97 mL, 10.2 mmol), and the reaction was stirred for 1 hour at room temperature. After work-up with EtOAc and H2O, the crude material was purified by silica gel chromatography to give the title compound.

reactant | [3-chloro-5-(2-hydroxymethyl-4-nitro-phenoxy)-phenyl]-acetic acid methyl ester | 6.8 mmol, 2.4 g | COC(CC1=CC(=CC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])CO)Cl)=O | C16H14ClNO6
reactant | phosphorus tribromide | 10.2 mmol, 0.97 mL | P(Br)(Br)Br | Br3P
solvent | DME | 20 mL | COCCOC | C4H10O2
product | [3-(2-Bromomethyl-4-nitro-phenoxy)-5-chloro-phenyl]-acetic acid methyl ester | COC(CC1=CC(=CC(=C1)Cl)OC1=C(C=C(C=C1)[N+](=O)[O-])CBr)=O | C16H13BrClNO5
